US06610707B1
1,1′-Carbonyidimidazole (195 mg) was added to a solution of (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid (287 mg) [see Preparation 38] in tetrahydrofuran (5 ml). The reaction mixture was stirred and heated under reflux for 1 hour and then evaporated under reduced pressure to afford a yellow gum. The gum was dissolved in 1,4-dioxane (5 ml) and thiosemicarbazide (182 mg) was added. The reaction mixture was heated under reflux for 1.25 hour. After this time the cooled mixture was purified by column chromatography on MCI (trade mark) reverse phase gel eluting with a solvent gradient of 30:70 changing to 70:30, by volume, methanol:water to afford 2-((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)-1-hydrazinecarbothioamide (178 mg) as a white foam.

reactant | 1,1′-Carbonyidimidazole | 195 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid | 287 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C12H14FNO4S
reactant | thiosemicarbazide | 182 mg | NNC(=S)N | CH5N3S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)-1-hydrazinecarbothioamide | 178 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)NNC(N)=S | C13H17FN4O3S2
